data/mechanisms/records/IMS4-EQ4.28.json
{"mechanism_id": "IMS4-EQ4.28", "species": [{"species_id": "protonated_alcohol", "mapped_smiles": "[CH3:1][OH2+:2]", "role": "precursor_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "water", "mapped_smiles": "[OH2:2]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "methyl_cation_R", "mapped_smiles": "[CH3+:1]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["protonated_alcohol"]}, {"state_id": "state_products", "species_ids": ["water", "methyl_cation_R"]}], "steps": [{"step_id": "step_inductive_cleavage", "from_state": "state_precursor", "to_state": "state_products", "step_class": "inductive_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "atom", "atom_maps": [2]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_inductive", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_inductive_cleavage", "support_type": "textbook_proposed", "locator": {"page": 66, "equation": "4.28", "section": "Even-electron ions / chemical ionization (Sec. 4.4/4.9)"}, "confidence": 0.9, "curator_note": "Equation 4.28 is a chemical-ionization (CI) pathway: R-OH is first protonated by the CI reagent to the even-electron ion R-OH2(+) (first arrow, labelled 'H+ / Cl' as a reagent arrow with 0 fishhook arcs drawn), which then undergoes inductive cleavage (arrow 'i') to R(+) + H2O. Only the inductive-cleavage step is encoded here as an electron-pushing step: the R-O sigma bond breaks heterolytically with both electrons going to oxygen, giving neutral water and R(+). Book draws 1 arc for this step (a single full curved arrow from the R-O bond onto O); move 1 (electron_count 2) is that drawn arrow. The protonation step is NOT encoded as a formal_arrow_step -- it is a reagent association (0 arcs) and the transferred/hydroxyl H atoms cannot be carried as mapped atoms because RDKit absorbs explicit mapped H into implicit counts. Instantiated as protonated methanol CH3-OH2(+) (R=CH3), MH+ m/z 33.0335; R(+) computed m/z 15.0229 derives from R=CH3, not the book (no m/z or % printed on this generic scheme). Text: (M+H-H2O)+ at m/z 148 for ephedrine is the concrete manifestation the book cites."}], "ms_context": {"ionization_method": "CI", "polarity": "positive", "adduct": "[M+H]+", "activation_method": "chemical ionization", "precursor_mz": 33.0335, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_R_cation", "species_id": "methyl_cation_R", "step_id": "step_inductive_cleavage", "observed_mz": 15.0229, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.5}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-24T00:00:00Z", "modified_at": "2026-07-24T00:00:00Z"}}
